US04061542
Similarly, amorphous 2-methyl-D,L-arginine base was converted to the hydrochloride by pH-adjustment to 5.1 with 1 M hydrochloric acid. Although crystalline 2-Methyl-DL-arginine hydrochloride could be obtained by the addition of 2-propanol to the methanolic solution of 2-methyl-D,L-arginine hydrochloride, the yields of crystalline product were only 30%, m.p. 243°-246° C.

reactant | 2-methyl-D,L-arginine | CC(N)(CCCNC(N)=N)C(=O)O | C7H16N4O2
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-methyl-D,L-arginine hydrochloride | Cl.CC(N)(CCCNC(N)=N)C(=O)O | InChI=1S/C7H16N4O2.ClH/c1-7(10,5(12)13)3-2-4-11-6(8)9;/h2-4,10H2,1H3,(H,12,13)(H4,8,9,11);1H
